US07423061B2
tert-Butyl(3S)-3-({[2-[(aminocarbonyl)amino]-5-(4-methoxyphenyl)-3-thienyl]carbonyl}amino)piperidine-1-carboxylate.
To a solution of methyl 5-(4-methoxyphenyl)-2-({[(trichloroacetyl)amino]carbonyl}amino)thiophene-3-carboxylate (1.0 g, 2.2 mmol) in dry THF (20 mL) was added a solution of [Me2Al-3-Boc-(S)-3-aminopiperidine] in THF (which was preformed by the addition of Me3Al (2.0 M in hexanes, 2.2 nL, 4.4 mmol) to a solution of (S)-3-Amino-piperidine-1-carboxylic acid tert-butyl ester (0.89 g, 4.4 mmol) in 10 mL THF at −78° C. followed by warming to room temperature for an additional 15 min). The resulting orange-colored solution was stirred overnight at room temperature. The reaction mixture was cooled with ice and a 10% aqueous solution of Rochelle's salt was added slowly to quench the reaction. The resulting biphasic solution was warmed to room temperature and stirred for an additional 1 h. The mixture was diluted with EtOAc and H2O, the aqueous layer was extracted with EtOAc (3×) and the combined organic extracts were washed with H2O, brine and dried (Na2SO4). Evaporation gave a pale orange solid. Purification by column chromatography (SiO2, 50% EtOAc/hexanes) gave 0.70 g (67%) of a light yellow solid. LC/MS (APCI, ES, M+H=475).

reactant | methyl 5-(4-methoxyphenyl)-2-({[(trichloroacetyl)amino]carbonyl}amino)thiophene-3-carboxylate | 2.2 mmol, 1.0 g | COC1=CC=C(C=C1)C1=CC(=C(S1)NC(=O)NC(C(Cl)(Cl)Cl)=O)C(=O)OC | C16H13Cl3N2O5S
reactant | Me3Al | 4.4 mmol, 2.0 M, 2.2 nL | C[Al](C)C
reactant | (S)-3-Amino-piperidine-1-carboxylic acid tert-butyl ester | 4.4 mmol, 0.89 g | C(C)(C)(C)OC(=O)N1C[C@H](CCC1)N | C10H20N2O2
reactant | Rochelle's salt | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
product | tert-Butyl(3S)-3-({[2-[(aminocarbonyl)amino]-5-(4-methoxyphenyl)-3-thienyl]carbonyl}amino)piperidine-1-carboxylate | 0.70 g, 67% | NC(=O)NC=1SC(=CC1C(=O)N[C@@H]1CN(CCC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)OC | C23H30N4O5S
